US06664407B2
Preparation of N-benzyl-hexane-1,6-diamine (2)
A solution of benzaldehyde (1.0 ml, 10.0 mmol) in THF (50 ml) was added with heating at reflux to a solution of 1,6-diaminohexane (5.81 g, 50.0 mmol) and p-toluene sulfonic acid (9.5 1 g, 50.0 mmol) in ethanol (50 ml) and then it was heated to reflux for 3 h under a nitrogen atmosphere. After cooling to room temperature, sodium borohydride (1.13 g, 30.0 mmol) was added to the solution and it was stirred at room temperature for 1 h. The solvent was removed under reduced pressure and the residue dissolved in chloroform. The chloroform phase was washed with water, and dried over magnesium sulphate, the solvent was removed under reduced pressure. The residue was washed with water (25 ml), and it dissolved in chloroform and washed again with water (2×50 ml). Then dried over magnesium sulphate, and the solvent removed under reduced pressure to yield a yellow oil (1.61 g, 78%).

reactant | benzaldehyde | 10.0 mmol, 1.0 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | 1,6-diaminohexane | 50.0 mmol, 5.81 g | NCCCCCCN | C6H16N2
reactant | p-toluene sulfonic acid | 50.0 mmol, 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium borohydride | 30.0 mmol, 1.13 g | [BH4-].[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-benzyl-hexane-1,6-diamine | 1.61 g, 78% | C(C1=CC=CC=C1)NCCCCCCN | C13H22N2
